US05466706
6-Chloro-N,9-dimethyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetamide.
A suspension of 1.5 g (0.044 mol) of 6-chloro-9-methyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetic acid is prepared in 50 ml of dry tetrahydrofuran, 1.15 g (0.071 mol) of N,N'-carbonyldiimidazole are added thereto and the mixture is stirred for 18 h. The solution is then treated with an excess of dry gaseous methylamine and again stirred for 6 h. The solvent is evaporated under reduced pressure. The residue is treated with water, sodium bicarbonate solution and again with water. The insoluble matter is collected by filtration and dried. It is purified by silica gel column chromatography, eluting with a dichloromethane/methanol 97/3 mixture. The product obtained is treated with a hydrochloric acid solution. The precipitate is collected by filtration and treated with excess of ammonium hydroxide. The product obtained is recrystallized from an N,N-dimethylformamide/water 75/25 mixture and then dried at 100° C. under vacuum. 0.8 g of solid is obtained. Melting point: 272°-273.5° C. (decomposition).

reactant | 6-chloro-9-methyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetic acid | 0.044 mol, 1.5 g | ClC=1C=CC2=C(N3C(N2C)=NC(=C3CC(=O)O)C3=CC=CC=C3)C1 | C18H14ClN3O2
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-Chloro-N,9-dimethyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetamide | 0.8 g | ClC=1C=CC2=C(N3C(N2C)=NC(=C3CC(=O)NC)C3=CC=CC=C3)C1 | C19H17ClN4O
